US09212182B2
6-(Benzylthio)-1-(5-bromo-2-methoxyphenyl)quinolin-2(1H)-one (5.48 g, 12.11 mmol) was diluted with MeCN (38.0 ml), AcOH (1.444 ml) and water (0.950 ml), and the mixture was cooled to 0° C. 1,3-Dichloro-5,5-dimethylimidazolidine-2,4-dione (3.58 g, 18.17 mmol) was added in portions and the reaction was stirred in the ice bath for 5 minutes until complete conversion to the sulfonyl chloride (reaction went from heterogeneous yellow mixture to yellow solution upon addition). With the solution at 0° C., 2,3,4,5,6-pentafluorophenol (2.68 g, 14.54 mmol) was added, followed by TEA (6.75 ml, 48.5 mmol), and the reaction was allowed to warm to RT for 20 min. Water was added and the organics were extracted with DCM (×3), followed by drying via phase separator. The organics were then concentrated in vacuo and purified via MPLC eluting with 0-100% ethyl acetate in heptanes (with 10% DCM additive) to yield perfluorophenyl 1-(5-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (5.92 g, 10.27 mmol, 85% yield) as a white solid. MS (ESI, pos. ion) m/z: [M+1] 576.0

reactant | 6-(Benzylthio)-1-(5-bromo-2-methoxyphenyl)quinolin-2(1H)-one | 12.11 mmol, 5.48 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=CC(=C1)Br)OC)=O | C23H18BrNO2S
reactant | 1,3-Dichloro-5,5-dimethylimidazolidine-2,4-dione | 18.17 mmol, 3.58 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,3,4,5,6-pentafluorophenol | 14.54 mmol, 2.68 g | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
solvent | MeCN | 38.0 ml | CC#N | C2H3N
solvent | AcOH | 1.444 ml | CC(=O)O | C2H4O2
solvent | water | 0.950 ml | O | H2O
product | perfluorophenyl 1-(5-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 10.27 mmol, 5.92 g, 85% yield | BrC=1C=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H11BrF5NO5S
